US07678803B2
2,4-Difluorobenzonitrile (2.78 g, 1 eq), guanidine hydrochloride (7.15 g, 3.74 eq), and sodium hydride (3.6 g, 7.6 eq) are added to dimethylacetamide (50 mL) and the resulting mixture is stirred at 150° C. for overnight. Then the reaction mixture is poured into sat'd NaHCO3 aq. solution (300 mL), extracted by EtOAc (3×200 mL). The combined organic layers is dried over Na2SO4, filtered, concentrated. The crude product is purified by flash chromatography to give 7-Fluoro-quinazolin-2,4-diamine (1 g, 28% yield). LC/MS m/z=179 [M+H]+.

reactant | 2,4-Difluorobenzonitrile | 2.78 g, 1 eq | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | guanidine hydrochloride | 7.15 g, 3.74 eq | Cl.NC(=N)N
reactant | sodium hydride | 3.6 g, 7.6 eq | [H-].[Na+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | 7-Fluoro-quinazolin-2,4-diamine | 1 g, 28% yield | FC1=CC=C2C(=NC(=NC2=C1)N)N | C8H7FN4
